US08119633B2
4-(Morpholin-4-yl-phenylmethyl)cyclohexylamine (NR1R2=morpholine, R3 phenyl) A11
A solution of 4-(morpholin-4-yl-phenylmethyl)cyclohexanone oxime (1.20 g, 4.16 mmol) in absolute tetrahydrofuran (12 ml) was added dropwise at 60° C., under argon, to a suspension of lithium aluminium hydride (316 mg, 8.32 mmol) in absolute tetrahydrofuran (40 ml), and stirring was carried out for 4 h at that temperature. After cooling, water (1.5 ml) and 4 N sodium hydroxide solution (0.4 ml) were added dropwise. The suspension was filtered, and the filtrate was dried over sodium sulfate and concentrated in vacuo.

reactant | 4-(morpholin-4-yl-phenylmethyl)cyclohexanone oxime | 4.16 mmol, 1.20 g | N1(CCOCC1)C(C1CCC(CC1)=NO)C1=CC=CC=C1 | C17H24N2O2
reactant | lithium aluminium hydride | 8.32 mmol, 316 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 4 N, 0.4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(Morpholin-4-yl-phenylmethyl)cyclohexylamine | N1(CCOCC1)C(C1CCC(CC1)N)C1=CC=CC=C1 | C17H26N2O
